US04096147
To 6.3 g (0.02 mole) of 2,3,4,4a,6,7,11b,12,13,13a-decahydro-9,10-dimethoxy-1H-dibenzo[a,f]quinolizin-13-one in 100 ml of tetrahydrofuran is added dropwise 30 ml of a 2N solution of phenylmagnesium bromide in tetrahydrofuran. When the addition is complete, the mixture is refluxed for three hours and cooled after which 100 ml of saturated ammonium chloride solution is added. The organic and aqueous layers are separated and the aqueous layer is extracted with ether. The combined organic layers are dried over magnesium sulfate, filtered and evaporated in vacuo leaving an oily residue which is dissolved in dry ether and treated with excess ethereal hydrochloric acid. The resulting precipitate is collected and recrystallized from benzene-methanol to give 2,3,4,4a,6,7,11b,12,13,13a-decahydro-9,10-dimethoxy-13-phenyl-1H-dibenzo[a,f]quinolizin-13-ol hydrochloride, M.P. 227°-228° C.

reactant | 2,3,4,4a,6,7,11b,12,13,13a-decahydro-9,10-dimethoxy-1H-dibenzo[a,f]quinolizin-13-one | 0.02 mole, 6.3 g | COC1=CC2=C(C3CC(C4C(N3CC2)CCCC4)=O)C=C1OC | C19H25NO3
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2,3,4,4a,6,7,11b,12,13,13a-decahydro-9,10-dimethoxy-13-phenyl-1H-dibenzo[a,f]quinolizin-13-ol hydrochloride | Cl.COC1=CC2=C(C3CC(C4C(N3CC2)CCCC4)(O)C4=CC=CC=C4)C=C1OC | InChI=1S/C25H31NO3.ClH/c1-28-23-14-17-12-13-26-21-11-7-6-10-20(21)25(27,18-8-4-3-5-9-18)16-22(26)19(17)15-24(23)29-2;/h3-5,8-9,14-15,20-22,27H,6-7,10-13,16H2,1-2H3;1H
